data/oMe_Silver.jsonl
{"reaction_id": "NR-331_1-c1ccc(OC)cc1_2-C(C)C_3-c1ccccc1_4-c1sccc1_5-c1cnccc1","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(C(C)C)(c1ccccc1)C(=O)Oc1ccc(OC)cc1","O=C(c1sccc1)c1cnccc1","[Zn]"],"products_smiles": ["C(C(O)(c1sccc1)c1cnccc1)(C(C)C)(c1ccccc1)C(=O)Oc1ccc(OC)cc1"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1ccc(OC)cc1OC(=O)C(C(C)C)(c1ccccc1)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(c1sccc1)c1cnccc1)(C(C)C)(c1ccccc1)C(=O)Oc1ccc(OC)cc1.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(c1sccc1)c1cnccc1)(C(C)C)(c1ccccc1)C(=O)Oc1ccc(OC)cc1","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
{"reaction_id": "NR-146_1-C_2-c2ncccc2_3-c2ccccc2","name": "Mitsunobu Reaction","level": "medium","reactants_smiles": ["[C@@H](O)(C)(c2ncccc2)","O=C(O)c2ccccc2","c1ccccc1P(c2ccccc2)c3ccccc3","CCOC(=O)N=NC(=O)OCC"],"products_smiles": ["[C@H](OC(=O)c2ccccc2)(C)(c2ncccc2)"],"conditions": "Ph3P, CCOC(=O)N=NC(=O)OCC","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N([N-]C(=O)OCC)C(=O)OCC","rationale": "Triphenylphosphine attacks the electrophilic azo carbonyl due to its strong nucleophilicity, forming a phosphonium intermediate stabilized by resonance with adjacent carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N(NC(=O)OCC)C(=O)OCC.[O-]C(=O)c2ccccc2","rationale": "The acidic proton of c2ccccc2–COOH is abstracted by the basic intermediate, driven by the stability of the resulting carboxylate anion and the favorable formation of a neutral phosphonium species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@@H](O[P+](c1ccccc1)(c2ccccc2)c3ccccc3)(C)(c2ncccc2).[O-]C(=O)c2ccccc2","rationale": "The alcohol oxygen attacks the electrophilic phosphonium center, forming an oxyphosphonium intermediate; this activates the adjacent carbon for nucleophilic substitution by making it a better leaving group."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@H](OC(=O)c2ccccc2)(C)(c2ncccc2)","rationale": "The carboxylate anion attacks the activated carbon in an SN2 fashion, favored by the excellent leaving ability of triphenylphosphine oxide and the reaction’s stereospecific inversion requirement."}],"description": "In the Mitsunobu reaction, triphenylphosphine activates the azo reagent to form a reactive intermediate, which deprotonates the acid to generate a nucleophilic anion. This anion then displaces the alcohol via inversion, yielding the ester product under mild, stereospecific conditions."}
